US08541575B2
4-iodo-1-(4-methoxybenzyl)-3-(3-nitrophenyl)-1H-pyrazole
2 g (6.3 mmol) of 4-iodo-3-(3-nitrophenyl)-1H-pyrazole were dissolved in 20 ml of dry dimethylformamide and 2.46 g (7.5 mmol) of cesium carbonate and 0.85 ml (6.3 mmol) of p-methoxybenzyl chloride were added successively. The reaction mixture was heated at 70° C. under stirring for 5 hours. Water was then added and the product extracted with dichloromethane. The organic phase was dried over sodium sulphate and the solvent evaporated under reduced pressure. 2.4 g (86%) of the title compound crystallized from a mixture diethylether-diisopropylether.

reactant | 4-iodo-3-(3-nitrophenyl)-1H-pyrazole | 6.3 mmol, 2 g | IC=1C(=NNC1)C1=CC(=CC=C1)[N+](=O)[O-] | C9H6IN3O2
reactant | cesium carbonate | 7.5 mmol, 2.46 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | p-methoxybenzyl chloride | 6.3 mmol, 0.85 ml | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | Water | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-iodo-1-(4-methoxybenzyl)-3-(3-nitrophenyl)-1H-pyrazole | IC=1C(=NN(C1)CC1=CC=C(C=C1)OC)C1=CC(=CC=C1)[N+](=O)[O-] | C17H14IN3O3
